US04659718
A mixture of acetic anhydride (0.8 ml) and formic acid (0.4 ml) was stirred at 50°-60° for 2 hours, then cooled to ambient temperature. 1-(4-Fluoro-2-methylaminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone (1.03 g) was added. The mixture was stirred at ambient temperature for 5 hours, then kept at this temperature for 16 hours. The mixture was triturated under light petroleum to give a solid product. This product was extracted with boiling ethyl acetate (100 ml) and the extract cooled to give a solid product which was recrystallised from industrial methylated spirit to give the novel compound 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 264°-267°, identical to the product of Example 2(d).

reactant | acetic anhydride | 0.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4-Fluoro-2-methylaminophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | 1.03 g | FC1=CC(=C(C=C1)C(CC1=NN=NN1C)=O)NC | C11H12FN5O
solvent | formic acid | 0.4 ml | C(=O)O | CH2O2
product | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
